US07951819B2
N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-2-fluoro-5-trifluoromethoxy-benzamide (CJS 3760)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 2-fluoro-5-trifluoromethoxy-benzoyl chloride to afford the title compound (11 mg, 11.7%). 1H-NMR (δ, ppm, DMSO-d6): 6.50 (d, 1H, HPy,5, J=5.9 Hz), 6.91-6.94 (m, 1H, Harom), 7.41-7.44 (m, 2H, Harom), 7.50-7.53 (m, 2H, Harom), 7.67-7.69 (m, 1H, Harom), 7.81 (d, 1H, HPy,6, J=5.9 Hz), 10.65 (s, 1H, NHamide), 11.18 (s, 1H, NHPy7), 11.39 (s, 1H, NHPy9). LC-MS, tR=4.65 minutes, m/z: 449.08 (M+H)+, calculated for C20H13N4O4F4. HRMS (EI): m/z [M+H] calculated for C20H13N4O4F4: 449.0873; found: 449.0873.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 2-fluoro-5-trifluoromethoxy-benzoyl chloride | FC1=C(C(=O)Cl)C=C(C=C1)OC(F)(F)F | C8H3ClF4O2
product | N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-2-fluoro-5-trifluoromethoxy-benzamide | 11 mg, 11.7% | O=C1NC=2C(=NC=CC2OC=2C=C(C=CC2)NC(C2=C(C=CC(=C2)OC(F)(F)F)F)=O)N1 | C20H12F4N4O4
